US03969357
To a solution of 1-(3-pyridylmethyl)-3-(4-butyrylphenyl)urea (2.98 g., 0.01 mole) in 200 ml. of methanol was added a solution of anhydrous zinc chloride (0.68 g., 0.005 mole) in 50 ml. of methanol. After standing overnight the solution was concentrated in vacuo to give 2.3 g. of white solid. This was a 63% yield of 1-(3-pyridylmethyl)-3-(4-butyrylphenyl)urea zinc chloride complex.

reactant | 1-(3-pyridylmethyl)-3-(4-butyrylphenyl)urea | 0.01 mole, 2.98 g | N1=CC(=CC=C1)CNC(=O)NC1=CC=C(C=C1)C(CCC)=O | C17H19N3O2
reactant | zinc chloride | 0.005 mole, 0.68 g | [Cl-].[Zn+2].[Cl-]
solvent | methanol | CO | CH4O
product | 1-(3-pyridylmethyl)-3-(4-butyrylphenyl)urea zinc chloride | 63% yield | [Cl-].[Zn+2].N1=CC(=CC=C1)CNC(=O)NC1=CC=C(C=C1)C(CCC)=O.[Cl-] | InChI=1S/C17H19N3O2.2ClH.Zn/c1-2-4-16(21)14-6-8-15(9-7-14)20-17(22)19-12-13-5-3-10-18-11-13;;;/h3,5-11H,2,4,12H2,1H3,(H2,19,20,22);2*1H;/q;;;+2/p-2
